US08217027B2
(7S)-7-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-3-methyl-1,3-diazaspiro[4.4]nonane-2,4-dione (0.052 g, 0.117 mmol) was taken up in dioxane (1.0 ml). To this was added sodium hydroxide (1.0 ml, 2.000 mmol) as 2M solution. The resulting suspension was heated to 120° C. for about 70 hours, during which more sodium hydroxide solution was added to push the hydrolysis to completion. Heating was stopped and the reaction mixture was concentrated in vacuo. The resulting material was brought up in 1-2 mL DMSO and filtered. The filtrate was purified on a Prep HPLC system using 30-100% acetonitrile in 50 mM NH4OAc buffer at 21 mL/min to yield (3S)-1-amino-3-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-N-methylcyclopentanecarboxamide (0.017 g, 0.041 mmol) as off-white solid.

reactant | (7S)-7-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-3-methyl-1,3-diazaspiro[4.4]nonane-2,4-dione | 0.117 mmol, 0.052 g | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)[C@@H]1CC2(C(N(C(N2)=O)C)=O)CC1 | C26H28N4O3
reactant | sodium hydroxide | 2.000 mmol, 1.0 ml | [OH-].[Na+]
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | (3S)-1-amino-3-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-N-methylcyclopentanecarboxamide | 0.041 mmol, 0.017 g | NC1(C[C@H](CC1)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C)C(=O)NC | C25H30N4O2
